US06982348B2
To a solution of (4RS,5SR)-5-(4-fluorophenyl)-4-((3-(phenyloxy)phenyl)methyl)-1,3-oxazolidin-2-one (877 mg, 2.41 mmol) in ethanol (10 ml) was added 8N aqueous sodium hydroxide solution (1.51 ml, 12.1 mmol) and the mixture was heated under reflux for 6 hrs. The reaction solution was concentrated, diluted with water (100 ml) and extracted with ethyl acetate (10.0 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure to give (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-(3-(phenyloxy)phenyl)-1-propanol (831 mg, 100%).

reactant | (4RS,5SR)-5-(4-fluorophenyl)-4-((3-(phenyloxy)phenyl)methyl)-1,3-oxazolidin-2-one | 2.41 mmol, 877 mg | FC1=CC=C(C=C1)C1C(NC(O1)=O)CC1=CC(=CC=C1)OC1=CC=CC=C1 | C22H18FNO3
reactant | sodium hydroxide | 12.1 mmol, 8N, 1.51 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-(3-(phenyloxy)phenyl)-1-propanol | 831 mg, 100% | NC(C(O)C1=CC=C(C=C1)F)CC1=CC(=CC=C1)OC1=CC=CC=C1 | C21H20FNO2
